US08283353B2
4′-[(7-butyl-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]-3′,5′-difluorobiphenyl-2-carbonitrile
A solution of 4H-1,2,4-triazol-3-amine (2.4 g) and methyl 2-[(2′-cyano-3,5-difluorobiphenyl-4-yl)methyl]-3-oxoheptanoate (10 g) in 1,2,4-trichlorobenzene (50 mL) was stirred at 180° C. for 6 hr. After evaporation of the solvent under reduced pressure, ethyl acetate was added to the obtained residue. The precipitated solid was collected by filtration to give the title compound as a colorless solid (4.5 g, 57%).

reactant | 4H-1,2,4-triazol-3-amine | 2.4 g | N=1N=C(NC1)N | C2H4N4
reactant | methyl 2-[(2′-cyano-3,5-difluorobiphenyl-4-yl)methyl]-3-oxoheptanoate | 10 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C(=C1)F)CC(C(=O)OC)C(CCCC)=O)F | C22H21F2NO3
solvent | 1,2,4-trichlorobenzene | 50 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4′-[(7-butyl-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]-3′,5′-difluorobiphenyl-2-carbonitrile | 4.5 g, 57% | C(CCC)C1=C(C(NC=2N1N=CN2)=O)CC2=C(C=C(C=C2F)C=2C(=CC=CC2)C#N)F | C23H19F2N5O
